US07169797B2
3,5,3′-Trimethoxybiphenyl
To a mixture of 600 mg (4.0 mmol) of 3-methoxyphenylboronic acid, 792 mg (3.0 mmol) of 3,5-dimethoxyiodobenzene, 34 mg (5 mol %) palladium(II)acetate, 182 mg (20 mol %) of tri-o-tolylphosphine, and 3.6 g (24 mmol) of cesium fluoride was added 10 mL of anhydrous dioxane. The reaction was stirred at reflux under N2 for 50 min, then poured into 30 mL of water and extracted with diethyl ether (3×10 mL). The combined ether layers were back extracted with saturated aqueous NaHCO3 solution (1×10 mL), then brine (1×10 mL), dried over MgSO4, filtered, and concentrated to an oil. This was purified via silica gel chromatography, eluting with 10%, ethyl acetate:hexanes to provide the titled compound (650 mg, 89%).

reactant | 3-methoxyphenylboronic acid | 4.0 mmol, 600 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | 3,5-dimethoxyiodobenzene | 3.0 mmol, 792 mg | COC=1C=C(C=C(C1)OC)I | C8H9IO2
reactant | tri-o-tolylphosphine | 182 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | cesium fluoride | 24 mmol, 3.6 g | [F-].[Cs+]
catalyst | palladium(II)acetate | 34 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 30 mL | O | H2O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3,5,3′-Trimethoxybiphenyl | 650 mg, 89% | COC=1C=C(C=C(C1)OC)C1=CC(=CC=C1)OC | C15H16O3
